US07470664B2
A mixture of 8-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride [Tetrahedron Letters, 1991, 32(17), 1965.] (3.0 g 15.0 mmol) and 45 mL of 48% aqueous HBr was heated for 18 h at 120° C. The resulting brown suspension was filtered and dried to provide 8-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (2.8 g, 81% yield). LRMS (ESI) m/z 150.1 [(M+H)+; calcd for C9H1NO: 150.2].

reactant | 8-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 15.0 mmol, 3.0 g | Cl.COC=1C=CC=C2CCNCC12
reactant | HBr | 45 mL | Br | BrH
product | 8-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 2.8 g, 81% yield | Br.OC=1C=CC=C2CCNCC12 | InChI=1S/C9H11NO.BrH/c11-9-3-1-2-7-4-5-10-6-8(7)9;/h1-3,10-11H,4-6H2;1H
